Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
"I was brought in against my will."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old homeless
woman with an unknown past psychiatric history (though from 
collateral question of previous schizophrenia) who was brought
to ___ by EMS after being picked up at the train station
screaming and banging her head against the wall.  On arrival,
patient was agitated, yelling ___ was the best
president ever."  Patient required 5 mg Haldol and 2 mg Ativan. 
     On evaluation, the patient states that she was "brought in
against her will."  She is unclear about what happened at the
train station. At first she says that "people don't like me and 
I
don't like this city." She then says an ambulance was called
because she asked a lady what time it is, then she starts 
talking
about being given ___ gift card.  She also
repeatedly talks about moving to ___, and says she was trying to
get a ___ ID in order to get a ___ ID in order to get 
a
birth certificate or SSN.  When pressed for any details about
what happened at the train station, she eventually says she
doesn't remember. 
     Patient says she feels like she has not been treated well.
She is chronically homeless, but has stayed at ___ Place in
the past.  She says that ___ Place is evil and they are
trying to kill her.  Denies thought broadcasting or thought
insertion. She does not believe that she has special powers, but
she gets power through Jesus, who has saved her life. Denies
racing thoughts or periods of increased energy.  
     Denies depression. States that she has difficulty sleeping
but it's because she sleeps on the street.  Denies changes in
appetite or difficulty concentrating. States that we all have
feelings of guilt but her guilt is absolved by Jesus.  Denies
anxiety or symptoms of panic attacks such as episodes of heart
palpitations or shortness of breath. 
     Denies SI/HI. Denies AVH. 
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Per patient, she reports she does not have any prior psychiatric 
diagnoses. 
Patient does not have any current treaters or medications.  No
access to guns. 

___ from homeless outreach team at ___
___ known patient for years and gave concern for 
previous schizophrenia with paranoia.  

PAST MEDICAL HISTORY:
Question of past cardiac valvular disease. 
 
Social History:
___
Family History:
Denies past family history of mental health illness, substance 
use or suicide attempts.  
 
Physical Exam:
Initial physical exam performed by Dr. ___:
"General- NAD
 Skin- legs erythematous, dry and peeling bilaterally below the
knee
 HEENT- PERRLA, exceedingly poor dentition, MMM, normal
oropharynx
 Lungs- CTA bilaterally
 CV- RRR, N S1 and S2, ___ systolic murmur heard best at apex, 
no
r/g
 Abdomen- Soft, NT, ND, +BS, no guarding or rebounding
 Extremities- No edema, normal tone
 Neuro- gait hunched and hesitating with cane, normal sensation
throughout
 Cranial nerves:
      pupils symmetry and responsiveness to light and
accommodation: PERRLA    
      
      EOM:  full
      facial sensation to light touch in all 3 divisions: equal
      facial symmetry on eye closure and smile:  symmetric
      hearing bilaterally to rubbing fingers: normal
      phonation: normal
      head turning and shoulder shrug:  intact
      tongue:   midline
      abnormal movements: resting small amplitude tremor in 
hands
and head"
 
Pertinent Results:
___ 02:12PM   WBC-7.0 RBC-4.03 HGB-13.2 HCT-40.3 MCV-100* 
MCH-32.8* MCHC-32.8 RDW-13.2 RDWSD-48.4*
___ 02:12PM   NEUTS-64.0 ___ MONOS-10.0 EOS-3.4 
BASOS-0.9 IM ___ AbsNeut-4.49 AbsLymp-1.48 AbsMono-0.70 
AbsEos-0.24 AbsBaso-0.06
___ 02:12PM   ALT(SGPT)-46* AST(SGOT)-108*
___ 02:12PM   VIT B12-547 FOLATE-6.6
___ 02:12PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:49PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 03:49PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:49PM URINE  BLOOD-TR NITRITE-POS PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-TR
___ 03:49PM URINE  RBC-1 WBC-2 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 03:49PM URINE  HYALINE-1*
___ 03:49PM URINE  MUCOUS-RARE
 
Brief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission and 

remained here on that level of observation throughout.  She was 
unit-restricted.  Though in ED she was briefly agitated, 
requiring Haldol 5 mg IM and Ativan 2 mg IM once, on unit there 
were no acute behavioral issues.  
 
LEGAL: ___
PSYCHIATRIC: She initially came in appearing quite tangential in 
thought process, her ED ETOH level was 147.  She had very 
guarded attitude around discussion of circumstances bringing her 
into the hospital, stating she should not be here, that the 
police were trying to work against her.  She states she prefers 
to live alone, believes she does not have a psychiatric illness. 
 While in the hospital she became much more linear and organized 
in her thought process.  She was able to state future plans, did 
not wish to get additional DMH or SSDI resources, preferred 
living on street or by train stations to most homeless shelters. 
 Earlier in hospitalization she voiced paranoid ideation about 
___ place saying staff there were trying to hurt her.  At 
time of discharge she was denying paranoid ideation, denying SI 
or HI.  

Given our observation of initial disorganized thought process 
and paranoid ideation in setting of initially being intoxicated 
with ETOH, we believe patient's initial presentation was 
consistent with alcohol intoxication in setting of a likely 
chronic schizophrenia.  She refused trying any psychotropic 
medications, refused set-up or suggestion of aftercare (said she 
would consider medical follow-up at ___ for the 
Homeless), and did not wish to participate in group therapy 
sessions.  We attempted to send releases for records from ___ 
and ___ where she had care before, records had not been sent at 
time of discharge.  On day of discharge, she was organized in 
thought process, and did not appear an acute threat of harm to 
herself or others.  Therefore, we believed she was at her 
baseline mental status and ready for discharge, with specific 
return instructions if needed and discussion of danger signs.  
We have contacted ___ for Homeless Outreach Team who is 
aware of patient's history and let them know of discharge.  
  
GENERAL MEDICAL CONDITIONS:
#) AST 108, ALT 46-likely ___ chronic alcohol use, offered 
thiamine 100 mg PO daily for 5 days. 

#) Asymptomatic bacteriuria: Had curbside discussion with IM 
consult
team about lab findings, who typically does not usually treat
asymptomatic bacteriuria with antibiotic, so we monitored 
symptoms and temperature while in hospital.  In the future, 
would continue to
watch for any signs of fever, leukocytosis or symptoms such as
dysuria, which she did not have at time of discharge.  

#) Baseline head bobbing and resting hand tremor-Appears 
chronic, in outpatient setting would consider evaluation for 
question of possible ___.  
  
PSYCHOSOCIAL:
#) GROUPS/MILIEU: Patient did not wish to participate with 
groups or more generally in treatment milieu for extended 
periods of time.  
 
#) COLLATERAL CONTACTS: ED team had contacted a member of ___ 
for collateral information, who knew patient for years and was 
previously concerned for previous paranoia and possible 
schizophrenia.  

We have contacted ___ for Homeless Outreach Team who is 
aware of patient's history and let them know of discharge.  
 
#) FAMILY INVOLVEMENT: Patient stated she did not currently have 
family whom she wished us to get involved with.  
 
#) INTERVENTIONS:
- Medications: Thiamine, patient did not want psychotropic 
medications.  
- Psychotherapeutic Interventions: Individual therapy.
- Coordination of aftercare: Patient adamantly did not want 
aftercare set-up, gave instructions for f/u at ___ 
for the Homeless.  
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
Supportive therapy.  
-Patient did not wish to have DMH referral at this time.  
 
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting these medications, and risks  and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
 take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.
 
RISK ASSESSMENT:
 
#) Chronic: Chronic mental illness, previous ED visits for
psychiatric problems.  

#) Modifiable: Likely psychosis, alcohol use disorder, 
homelessness,
poor social supports, does not wish to have follow-up, does not
wish to use psychiatric medication or extended therapy.  We 
offered psychotropic medication, which patient refused, offered 
individual psychotherapy, offered group therapy, which patient 
for most part refused, offered setting up aftercare, which 
patient also refused though stated would consider working with 
___ for the Homeless.  On discharge, appeared at 
approximate baseline mental status.   
 
#) Protective: Does not currently have SI or HI, appears close 
to baseline, future-oriented-has plans for after hospitalization 
as to where she will go and how
she will make money.  
 
PROGNOSIS: Guarded-patient appears at baseline mental status, 
without SI/HI at time of discharge; however, patient has 
increased chronic risk given lack of desire to follow-up in 
outpatient setting and chronic alcohol use.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Thiamine 100 mg PO DAILY Duration: 5 Days 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*4 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizophrenia

 
Discharge Condition:
 Neurological:
    *station and gait: WNL  
    *tone and strength: Moving all extremities.
    cranial nerves: Not formally tested.  
    abnormal movements: Very mild bilateral hand resting tremor 
(similar to admission exam), mild head bobbing similar to 
admission exam, no tics or dyskinesias, no psychomotor agitation 
or retardation.
    frontal release: None 

  *Appearance: Hygiene and grooming is poor-to-fair, patient
appears stated age.  Patient is wearing hospital gown.  
  Behavior: Calm, cooperative, able to state future plans 
without difficulty.  
  *Mood and Affect: 'good'; full range of
affect, not labile, appropriate.
  *Thought process: Linear, logical and goal-oriented.  No
LOA.  
  *Thought Content: Denies SI.  Denies HI. Denies AH or VH. 
Denies paranoid thoughts at this time.  

  *Judgment and Insight: Poor/poor
    Cognition:
    *Attention, *orientation, and executive function: A and Ox3,
attends to interview, MOYB x 12.  
    *Memory: Not formally tested.    
    *Fund of knowledge: Not formally tested, appears grossly
intact.
    *Speech: Regular rate, rhythm, tone, prosody and volume 
    *Language: Fluent ___

 
Discharge Instructions:
-Please continue medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___